US08252797B2
To a solution of 8-{1-[3-(3-hydroxymethyl-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (25 mg) in ethanol (3 ml), aq. HCl (2 N, 1 ml) was added and the reaction mixture was refluxed for 2 hrs. The volatiles were evaporated and the residue obtained was dissolved in ethyl acetate. The organic layer was washed with water, brine and dried over Na2SO4 and concentrated under vacuum. The residue obtained was purified by column to obtain 8-{1-[3-(3-hydroxymethyl-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (10 mg, 52%) as white solid.

reactant | 8-{1-[3-(3-hydroxymethyl-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 25 mg | OCC=1C=C(C=CC1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC | C30H40N6O4Si
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | HCl | 2 N, 1 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-{1-[3-(3-hydroxymethyl-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 10 mg, 52% | OCC=1C=C(C=CC1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C24H26N6O3
